US06326369B1
1-[8-(4,5,6,7-Tetramethoxyindan-2-yl)octyl]-4-(2-pyridyl)piperazine
The mixture of 2-(8-iodooctyl)-4,5,6,7-tetramethoxyindan (1.20 g), 1-(2-pyridyl)piperazine (823 mg), and potassium carbonate (1.04 g) in DMF (12 ml) was stirred at room temperature for 12 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride and dried. The solvent was removed in vacuo. The residue was purified by alumina column chromatography (hexane to hexane:ethyl acetate=10:1) to yield the entitled compound (1.16 g) as an oil.

reactant | 2-(8-iodooctyl)-4,5,6,7-tetramethoxyindan | 1.20 g | ICCCCCCCCC1CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC | C21H33IO4
reactant | 1-(2-pyridyl)piperazine | 823 mg | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | potassium carbonate | 1.04 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 12 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-[8-(4,5,6,7-Tetramethoxyindan-2-yl)octyl]-4-(2-pyridyl)piperazine | 1.16 g | COC1=C2CC(CC2=C(C(=C1OC)OC)OC)CCCCCCCCN1CCN(CC1)C1=NC=CC=C1 | C30H45N3O4
